US04381395
To a stirred suspension of NaH (50% oil suspension, 3.58 g) in THF (160 ml) was added pyrazole (5.84 g) at a temperature below room temperature and stirred for 1 hr. To the mixture was added N-cyano-N'-methyl-methylsulfinylformamidine (8.32 g, obtained by the same procedure as in Example 3 (1)) and stirred for 3 hrs. at room temperature. After evaporation under a reduced pressure, the residue was dissolved in water and washed with ether. The aqueous layer was acidified (pH 4) with 10% HCl under ice-cooling. The precipitate was filtered, washed with water and dried to give 1-(N-cyano-N'-methylamidino)pyrazole (7.52 g). An additional amount (0.2 g) of the same product was further obtained from the filtrate. The crude products were combined and recrystallized from ethyl acetate to give the purified product (6.12 g). Yield 71.7%, m.p. 166.5°-168° C.

reactant | NaH | 3.58 g | [H-].[Na+]
reactant | pyrazole | 5.84 g | N1N=CC=C1 | C3H4N2
reactant | N-cyano-N'-methyl-methylsulfinylformamidine | C(#N)NC(=NC)S(=O)C | C4H7N3OS
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | 1-(N-cyano-N'-methylamidino)pyrazole | 7.52 g | C(#N)NC(=NC)N1N=CC=C1 | C6H7N5
